US09056834B2
To a 0° C. solution of methyl 6-(1-hydroxyethyl)nicotinate (0.100 g, 0.552 mmol) and 4-dimethylaminopyridine (152 mg, 1.32 mmol) in dichloromethane (10 mL) was added methanesulfonyl chloride (75.9 mg, 0.662 mmol) dropwise. The resulting mixture was stirred at room temperature for 1 hour. Additional methanesulfonyl chloride (75.9 mg, 0.662 mmol) was added and the mixture stirred at room temperature for an additional 2 hours. The mixture was quenched with water and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered and concentrated to give crude methyl 6-(1-(methylsulfonyloxy)ethyl)nicotinate (134 mg) as an oil which was used in the next step directly.

reactant | methyl 6-(1-hydroxyethyl)nicotinate | 0.552 mmol, 0.100 g | OC(C)C1=NC=C(C(=O)OC)C=C1 | C9H11NO3
reactant | methanesulfonyl chloride | 0.662 mmol, 75.9 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.662 mmol, 75.9 mg | CS(=O)(=O)Cl | CH3ClO2S
catalyst | 4-dimethylaminopyridine | 1.32 mmol, 152 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methyl 6-(1-(methylsulfonyloxy)ethyl)nicotinate | 134 mg | CS(=O)(=O)OC(C)C1=NC=C(C(=O)OC)C=C1 | C10H13NO5S
